US07919504B2
tert-Butyl (R)-4-(5-(2-oxoindolin-5-yl)-1,3,4-thiadiazol-2-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate.
Iron powder (48 mg, 853 μmol) was added to a suspension of ethyl 2-(5-(5-((R)-3-(tert-butoxycarbonylamino)-4-(6-(trifluoromethyl)pyridin-3-yl)butyl)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)acetate (104 mg, 171 μmol) in EtOH (1.5 mL). 2N aqueous HCl (256 μL, 512 μmol) was added, and the mixture was heated under reflux for 4 hours. Saturated aqueous NaHCO3 (5 mL) was added dropwise and the mixture was stirred at room temperature for 5 minutes. It was diluted with H2O (5 mL) and extracted with DCM (3×15 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting light yellow oil was absorbed onto silica gel and purified by flash chromatography (silica gel, 2% to 6% MeOH/DCM) to deliver tert-butyl (R)-4-(5-(2-oxoindolin-5-yl)-1,3,4-thiadiazol-2-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate (49 mg, 54%) as a white solid. LCMS (API-ES) m/z: 534.0 (M+H+).

reactant | ethyl 2-(5-(5-((R)-3-(tert-butoxycarbonylamino)-4-(6-(trifluoromethyl)pyridin-3-yl)butyl)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)acetate | 171 μmol, 104 mg | C(C)(C)(C)OC(=O)N[C@H](CCC1=NN=C(S1)C=1C=CC(=C(C1)CC(=O)OCC)[N+](=O)[O-])CC=1C=NC(=CC1)C(F)(F)F | C27H30F3N5O6S
reactant | HCl | 512 μmol, 2N, 256 μL | Cl | ClH
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
catalyst | Iron | 853 μmol, 48 mg | [Fe] | Fe
product | tert-Butyl (R)-4-(5-(2-oxoindolin-5-yl)-1,3,4-thiadiazol-2-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate | O=C1NC2=CC=C(C=C2C1)C1=NN=C(S1)CC[C@H](CC=1C=NC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O | C25H26F3N5O3S
